US06686347B2
1d) 1-(3-Methylanilino)-4-([1,3,5]trioxan-2-yl)phthalazine
To a suspension of 9.6 g (40.8 mmol) 1-(3-methylanilino)phthalazine and 173 g 1,3,5-trioxane in 570 ml acetonitrile, 3.12 ml (40.8 mmol) trifluoroacetic acid, 11.0 ml (80% in tBuOOtBu; 87.4 mmol) tBuOOH and 190 mg (0.68 mmol) FeSO4·7 H2O are added, and the mixture stirred for 17 h at 80° C. The cooled reaction mixture is partly evaporated in the RE, diluted with EtOAc and water and adjusted to an alkaline pH with 1 N NaOH. The aqueous phase is separated off and twice extracted with EtOAc. The organic phases are washed twice with water and brine, dried (Na2SO4) and evaporated. Column chromatography (SiO2; EtOAc/toluene 1:3; applied as solution in dichloromethane/acetone 9:1) yields the title compound after crystallization with the addition of DIPE; m.p. 161° C.; DC (EtOAc/toluene 1:3) Rf=0.27; 1H-NMR (DMSO-d6) 9.27 (s, HN), 8.74 (m, 1H), 8.61 (m, 1H), 8.00 (m, 2H), 7.72 (s, 1H), 7.68 (d, 1H), 7.25 (t, 1H), 6.89 (d, 1H), 6.39 (s, 1H), 5.47 (d, 2H), 5.41 (d, 2H), 2.33 (s, 3H); FAB-MS (M+H)+=324; anal. calc.(C18H17N3O3) C, 66.86%; H, 5.30%; N, 13.00%; meas. C, 66.83%; H, 5.36%; N, 12.81%.

reactant | 1-(3-methylanilino)phthalazine | 40.8 mmol, 9.6 g | CC=1C=C(NC2=NN=CC3=CC=CC=C23)C=CC1 | C15H13N3
reactant | 1,3,5-trioxane | 173 g | O1COCOC1 | C3H6O3
reactant | trifluoroacetic acid | 40.8 mmol, 3.12 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tBuOOH | 87.4 mmol, 11.0 ml | C(C)(C)(C)OO | C4H10O2
solvent | acetonitrile | 570 ml | C(C)#N | C2H3N
product | 1-(3-Methylanilino)-4-([1,3,5]trioxan-2-yl)phthalazine | CC=1C=C(NC2=NN=C(C3=CC=CC=C23)C2OCOCO2)C=CC1 | C18H17N3O3
